US20010049371A1
A stirred solution of 3-amino-3-(3-ethoxy-4-methoxyphenyl)propanoic acid (3.00 g, 12.5 mmol) and 4-methylphthalic anhydride (2.13g, 12.5 mmol, 95%) in acetic acid was heated to reflux under nitrogen for 18 hours. The mixture was allowed to cool to room temperature. The solvent was removed in vacuo to give an oil. The resulting oil was stirred with ethyl acetate (10 mL), hexane (10 mL) and water (30 mL) for 30 minutes. The resulting suspension was filtered. The solid was washed with water (3×10 mL) and hexane (3×10 mL), and then was dried in a vacuum oven overnight (60° C., <1 torr) to give 3-(3-ethoxy-4-methoxyphenyl)-3-(4-methylphthalimido)propanoic acid as a white solid (3.4 g, 71% yield): mp, 134.0-136.0° C.; 1H NMR (DMSO-d6) δ1.31 (t, J=6.9 Hz, 3H, CH3), 2.47 (s, 3H, CH3), 3.23 (dd, J=6.7, 16.5 Hz, 1H, CHH), 3.50 (dd, J=9.2, 16.5 Hz, 1H, CHH), 3.72 (s, 3H, CH3), 3.97 (q, J=6.9 Hz, 2H, CH2), 5.58 (dd, J=6.7, 9.1 Hz, 1H, NCH), 6.90-6.95 (m, 2H, Ar), 7.01 (br s, 1H, Ar), 7.61-7.76 (m, 3H, Ar), 12.4 (br s, 1H, OH); 13C NMR (DMSO-d6) δ14.65, 21.32, 36.09, 50.04, 55.45, 63.72, 111.79, 112.15, 119.29, 123.08, 123.58, 128.51, 131.35, 131.49, 134.95, 145.63, 147.75, 148.53, 167.67, 167.78, 171.72; Anal Calcd for C21H21NO6: C, 65.79; H, 5.52; N, 3.65. Found: C, 65.46; H, 5.57; N, 3.31.

reactant | 3-amino-3-(3-ethoxy-4-methoxyphenyl)propanoic acid | 12.5 mmol, 3.00 g | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C12H17NO4
reactant | 4-methylphthalic anhydride | 12.5 mmol, 2.13g | CC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O3
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | hexane | 10 mL | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 30 mL | O | H2O
product | 3-(3-ethoxy-4-methoxyphenyl)-3-(4-methylphthalimido)propanoic acid | 3.4 g, 71% yield | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=CC(=CC2)C)=O | C21H21NO6
